US06002008
4(3-acetylphenylamino)-6,7-dimethoxy-3-quinolinecarbonitrile
In the manner of Example 274 reaction of 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile with 3-aminoacetophenone gave the tide compound as a tan solid, mp 204-206° C.

reactant | 4-chloro-6,7-dimethoxy-3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 3-aminoacetophenone | CC(=O)C1=CC(=CC=C1)N | C8H9NO
product | 4(3-acetylphenylamino)-6,7-dimethoxy-3-quinolinecarbonitrile | C(C)(=O)C=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C20H17N3O3
